US04740595
(2S,3R)-2-bromo-3-acetoxy-butyryl chloride
Acetyl chloride (6.82 g, 86.88 mmole) was added dropwise to (2S,3R)-2-bromo-3-hydroxybutyric acid (neat) with stirring. The reaction mixture was cooled in a bath at 5° C. as exotherm began. After completion of addition, the cooling bath was removed. After 45 minutes the mixture was heated at 45°-50° C. for 1.5 hours. Heating was discontinued and 10 mL toluene was added. The mixture was cooled in an ice bath and oxalyl chloride (11.4 80 g, 90.44 mmole) was added dropwise. After completion of addition, the mixture was allowed to warm to room temperature then heated at reflux for 30 minutes. Toluene and excess of reagents were removed by fractional distillation. The residue was subjected to bulb-to-bulb distillation at 80°-90° C. under high vacuum (1 mm/Hg) to yield the title compound.

reactant | Acetyl chloride | 86.88 mmole, 6.82 g | C(C)(=O)Cl | C2H3ClO
reactant | (2S,3R)-2-bromo-3-hydroxybutyric acid | Br[C@H](C(=O)O)[C@@H](C)O | C4H7BrO3
reactant | oxalyl chloride | 90.44 mmole, 80 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | (2S,3R)-2-bromo-3-acetoxy-butyryl chloride | Br[C@H](C(=O)Cl)[C@@H](C)OC(C)=O | C6H8BrClO3
